US07601716B2
7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (200 mg) was reduced as in General Procedure 3 using 4 eq DIBAL-H to give the title compound as a white solid (31% yield). M.p. 126-128° C., LCMS: m/z=262.30 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 3.13-3.17 (m, 2H), 3.27-3.29 (m, 2H), 5.78 (s, 1H), 6.37 (s, 1H), 6.78 (d, J=2.0 Hz, 1H), 7.33 (d, J=2.0 Hz, 1H).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 200 mg | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | DIBAL-H | 4 eq | CC(C)C[AlH]CC(C)C
product | 7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 31% yield | IC1=CC2=C(NCCN2)N=C1 | C7H8IN3
